US04780528
(D) α-Aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride
N-t-Butoxycarbonyl-α-aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester (2.3 g) was dissolved under ice cooling in 4N-HCl/dioxane (20 ml), and the mixture was stirred for one hour. Ethyl ether (150 ml) was added, and the crystals which separated out were collected by filtration. Yield: 1.8 g.

reactant | N-t-Butoxycarbonyl-α-aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester | 2.3 g | COC([C@@H](NC([C@@](N(C(=O)OC(C)(C)C)C(C(C)C)=O)(CC(O)=O)N)=O)CC1=CC=CC=C1)=O | C23H33N3O8
reactant | Ethyl ether | 150 ml | C(C)OCC | C4H10O
reactant | HCl dioxane | 20 ml | Cl.O1CCOCC1
product | α-Aminoisobutyryl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@](NC(C(C)C)=O)(CC(O)=O)N)=O)CC1=CC=CC=C1)=O | InChI=1S/C18H25N3O6.ClH/c1-11(2)15(24)21-18(19,10-14(22)23)17(26)20-13(16(25)27-3)9-12-7-5-4-6-8-12;/h4-8,11,13H,9-10,19H2,1-3H3,(H,20,26)(H,21,24)(H,22,23);1H/t13-,18-;/m0./s1
